US07897597B2
Trimethyl orthobutyrate (29.75 mL, 0.1859 mol) was added in three portions to a solution of 7-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine (54.6 g, 0.170 mol) in toluene (795 mL). Pyridine hydrochloride (1.96 g) was then added, and the reaction was heated at 105° C. and stirred for four hours. Additional trimethyl orthobutyrate (7 mL, 40 mmol) was then added, and the reaction was stirred for three hours. The reaction was allowed to cool to ambient temperature, and the solvent was removed under reduced pressure. The oily residue was treated with chloroform, which was removed under reduced pressure to remove residual toluene, and then again diluted with chloroform (1.2 L). The resulting solution was washed with 5% aqueous sodium bicarbonate, water, and brine; dried over magnesium sulfate; filtered; and concentrated under reduced pressure to yield 60.3 g of 7-benzyloxy-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinoline as an oily brown solid, containing a small amount of toluene (0.93 equivalents).

reactant | Trimethyl orthobutyrate | 0.1859 mol, 29.75 mL | C(CCC)(OC)(OC)OC | C7H16O3
reactant | 7-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine | 0.170 mol, 54.6 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCC(C)C | C20H23N3O
reactant | Pyridine hydrochloride | 1.96 g | Cl.N1=CC=CC=C1
reactant | trimethyl orthobutyrate | 40 mmol, 7 mL | C(CCC)(OC)(OC)OC | C7H16O3
solvent | toluene | 795 mL | C1(=CC=CC=C1)C | C7H8
product | 7-benzyloxy-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinoline | 60.3 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)CCC | C24H27N3O
